US08686180B2
A. N-(3-Formyl-4-hydroxyphenyl)acetamide (Compound IV: R3═CH3)
25 g of N-(4-hydroxyphenyl)acetamide (0.165 mol; 1 equivalent) and 92.7 g of trifluoroacetic acid (0.661 mol; 4 equivalents) are placed in a 500 ml reactor. The mixture is stirred, and 92.7 g of hexamethylenetetramine (0.661 mol; 4 equivalents) are then added portionwise. The reaction is exothermic. A temperature of 70° C. is maintained over 18 hours, while monitoring the reaction progress by thin-layer chromatography (eluent: 8/2 toluene/methanol). The reaction medium is allowed to warm to room temperature. It becomes thick, and is diluted by addition of 200 ml of water to facilitate the stirring. 100 ml of ethyl acetate are then added. Stirring is continued and the phases are allowed to separate by settling. 300 ml of water and 200 ml of ethyl acetate are added, the mixture is stirred and the phases are then allowed to separate by settling. The aqueous phase is removed first, then the organic phase. The organic phase is then washed twice with 150 ml of water in total to collect, after phase separation, a new organic phase and a new aqueous phase. This new organic phase is then concentrated on a rotary evaporator (T=45° C.; 50 mmHg). 14 g of the desired compound are thus obtained in the form of crystals recovered from an orange-red solution.

reactant | N-(4-hydroxyphenyl)acetamide | 0.165 mol, 25 g, 1 equivalent | OC1=CC=C(C=C1)NC(C)=O | C8H9NO2
reactant | trifluoroacetic acid | 0.661 mol, 92.7 g, 4 equivalents | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylenetetramine | 0.661 mol, 92.7 g, 4 equivalents | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | toluene methanol | C1(=CC=CC=C1)C.CO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | N-(3-Formyl-4-hydroxyphenyl)acetamide | 14 g | C(=O)C=1C=C(C=CC1O)NC(C)=O | C9H9NO3
